US09063126B2
2,12-dimethyl-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole
In a 100 mL round-bottom flask were combined p-tolylhydrazine hydrochloride (1.58 g, 10 mmol; Aldrich), pseudopelletierine hydrochloride (2.0 g, 10.5 mmol; Acros), and concentrated sulfuric acid (5 mL) in dioxane (50 mL). The reaction mixture was heated to 80° C. for 2.5 hours, then cooled to room temperature. The solvent was decanted, and the residue was dissolved in water (20 mL) and basified with solid potassium carbonate to pH ˜12. This solution was extracted with dichloromethane (3×50 mL), and the combined organic phases were dried over magnesium sulfate. After removing the solvent under vacuum, the resulting solid was recrystallized from ether to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 1.21-1.41 (m, 2H), 1.60-1.71 (m, 2H), 1.90-2.08 (m, 2H), 2.35 (s, 3H), 2.38 (s, 3H), 2.42-2.52 (m, 1H), 3.16-3.27 (m, 2H), 4.09 (t, J=3 Hz, 1H), 6.86 (dd, J=8, 1 Hz, 1H), 7.10 (s, 1H), 7.17 (d, J=8 Hz, 1H); MS (DCI/NH3) m/z 241 (M+H)+.

reactant | p-tolylhydrazine hydrochloride | 10 mmol, 1.58 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | pseudopelletierine hydrochloride | 10.5 mmol, 2.0 g | C[NH+]1[C@@H]2CCC[C@H]1CC(=O)C2
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2,12-dimethyl-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole | CC=1C=C2C3=C(NC2=CC1)CC1CCCC3N1C | C16H20N2
